US09107916B2
A. 2-{5-[(4-chloro-2-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and (4-chloro-2-fluorophenyl)methanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 5.19 (2H, s), 5.72 (1H, d, J=1.6 Hz), 7.07-7.13 (2H, m), 7.33-7.41 (2H, m), 7.51 (1H, d, J=2.0 Hz), 7.95 (1H, s), 8.62 (1H, d, J=5.2 Hz). [M+H] Calc'd for C16H10ClFN4O, 329. Found, 329.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | (4-chloro-2-fluorophenyl)methanol | ClC1=CC(=C(C=C1)CO)F | C7H6ClFO
product | 2-{5-[(4-chloro-2-fluorobenzyl)oxy]-1H-pyrazol-1-yl}pyridine-4-carbonitrile | ClC1=CC(=C(COC2=CC=NN2C2=NC=CC(=C2)C#N)C=C1)F | C16H10ClFN4O
